US08349880B2
Step AAH (7): To a soln of 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-ol (500 mg, 2.356 mmol) in THF (15 mL) was added NaHMDS (1.0 M in THF, 2.94 mL, 2.94 mmol) at −78° C. under nitrogen. After stirring for 10 min, 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (1281 mg, 4.24 mmol) was added. The mixture was allowed to warm from −78° C. to rt over 3 h. The reaction was diluted with EtOAc (200 mL) and washed sequentially with 0.1 N aqueous sodium hydroxide, water, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (30% EtOAc/hexanes) to afford 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (1.0 g, 86% yield). LC-MS (M+H)+ 495.12.

reactant | 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-ol | 2.356 mmol, 500 mg | C1(=CC=CC=C1)C1=CCCC=2N1N=C(C2)O | C13H12N2O
reactant | NaHMDS | 2.94 mmol, 1.0 M, 2.94 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 4.24 mmol, 1281 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 7-phenyl-4,5-dihydropyrazolo[1,5-a]pyridin-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 1.0 g, 86% yield | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=NN2C(CCC=C2C2=CC=CC=C2)=C1)F | C17H11F9N2O3S
